US05334749
A 300-ml eggplant type flask was charged with 16.3 g of 3-chloro-4-hydroxybenzoic acid methyl ester, 87 g of 1,4-(2-hydroxyethoxy)benzene and further with 0.8 g of PTD (p-toluenesulfonic acid monohydrate) as a catalyst to form a mixture. The mixture was stirred with heating on an oil bath, externally regulated at a temperature of 150° C., to react the mixture for 5 hours. The reaction mixture was poured into ice water followed by extracting with ethyl acetate, drying over anhydrous magnesium sulfate, concentrating and separating with a column using ethylacetate/n-hexane to obtain 29 g of 3-chloro-4-hydroxybenzoic acid 2-[4-(β-hydroxyethoxy)-phenoxy]ethyl ester (melting point: 87° to 88° C.). To 50 ml of an acetonitrile solution containing 10 g of the 3-chloro-4-hydroxybenzoic acid 2-[4-(β-hydroxyethoxy)-phenoxy]ethyl ester, 13.9 g of N-methylpyrrolidone and further 8.78 g of methacrylic acid chloride were added with stirring to form a solution. The solution was stirred at 40° C. for 8 hours to react the solution. Thereafter, excess methacrylic acid chloride was removed by means of vacuum distillation. The reaction mixture remaining therein was poured into ice water and the precipitated crystals were obtained by filtration. The crystals were recrystallized with ethylacetate/n-hexane to obtain 3-chloro-4-hydroxybenzoic acid 2-[4-(β-methacryloyloxyethoxy)phenoxy]ethyl ester (melting point: 105° to 106° C.).

reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | 3-chloro-4-hydroxybenzoic acid 2-[4-(β-hydroxyethoxy)-phenoxy]ethyl ester | 10 g | OCCOC1=CC=C(OCCOC(C2=CC(=C(C=C2)O)Cl)=O)C=C1 | C17H17ClO6
reactant | methacrylic acid chloride | 8.78 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | N-methylpyrrolidone | 13.9 g | CN1C(CCC1)=O | C5H9NO
product | 3-chloro-4-hydroxybenzoic acid 2-[4-(β-methacryloyloxyethoxy)phenoxy]ethyl ester | C(C(=C)C)(=O)OCCOC1=CC=C(OCCOC(C2=CC(=C(C=C2)O)Cl)=O)C=C1 | C21H21ClO7
